US08486970B2
To a mixture of 2.92 g of (2-hydroxyphenyl)acetonitrile, 4.71 g of tert-butyl bromoacetate and 110 mL of DMF was added 6.06 g of potassium carbonate at room temperature, followed by stirring for 12 hours. To the reaction solution was added water, followed by extraction with ethyl acetate. The extract was dried over anhydrous magnesium sulfate and then concentrated under reduced pressure. The residue was purified by silica gel column chromatography using hexane/ethyl acetate as an eluent solvent to obtain 5.29 g of tert-butyl[2-(cyanomethyl)phenoxy]acetate as a yellow oily substance.

reactant | (2-hydroxyphenyl)acetonitrile | 2.92 g | OC1=C(C=CC=C1)CC#N | C8H7NO
reactant | tert-butyl bromoacetate | 4.71 g | BrCC(=O)OC(C)(C)C | C6H11BrO2
reactant | DMF | 110 mL | CN(C)C=O | C3H7NO
reactant | potassium carbonate | 6.06 g | C([O-])([O-])=O.[K+].[K+]
solvent | water | O | H2O
product | tert-butyl[2-(cyanomethyl)phenoxy]acetate | 5.29 g | C(C)(C)(C)OC(COC1=C(C=CC=C1)CC#N)=O | C14H17NO3
